US08809369B2
To a stirred mixture solution of 6-(3-chloro-4-fluoro-phenyl)-8,8-dimethyl-5,6,7,8-tetrahydro-[1,5]naphthyridine-2-carbonitrile (630.0 mg, 2.0 mmol) in ethanol (10.0 mL) was added 50% sodium hydroxide in water (8.5 mL). The reaction mixture was stirred at 90° C. for 6 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×100 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 6-(3-chloro-4-fluoro-phenyl)-8,8-dimethyl-5,6,7,8-tetrahydro-[1,5]naphthyridine-2-carboxylic acid (635.9 mg, 95%) as a light white solid which was used for next step without further purification: MS (ESI) M+1=335.1.

reactant | 6-(3-chloro-4-fluoro-phenyl)-8,8-dimethyl-5,6,7,8-tetrahydro-[1,5]naphthyridine-2-carbonitrile | 2.0 mmol, 630.0 mg | ClC=1C=C(C=CC1F)C1NC=2C=CC(=NC2C(C1)(C)C)C#N | C17H15ClFN3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
reactant | ethanol | 10.0 mL | C(C)O | C2H6O
solvent | water | 8.5 mL | O | H2O
product | 6-(3-chloro-4-fluoro-phenyl)-8,8-dimethyl-5,6,7,8-tetrahydro-[1,5]naphthyridine-2-carboxylic acid | 635.9 mg, 95% | ClC=1C=C(C=CC1F)C1NC=2C=CC(=NC2C(C1)(C)C)C(=O)O | C17H16ClFN2O2
